US09388185B2
Step 1. 5-Bromo-2-(4-methylpiperazin-1-yl)benzonitrile
A mixture of 5-bromo-2-fluorobenzonitrile (0.20 g, 1.0 mmol), 1-methylpiperizine (0.15 g, 1.5 mmol) and triethylamine (0.20 g, 2.0 mmol) in 1-butanol (3.0 mL) was heated at 140° C. for 2 hours. The solvent was removed under reduced pressure and the residue was diluted with ethyl acetate, washed with water, brine, dried over Na2SO4, filtered and concentrated to provide the desired product (0.26 g, 92%). LCMS calculated for C12H15BrN3(M+H)+: m/z=280.0. Found 280.0.

reactant | 5-bromo-2-fluorobenzonitrile | 1.0 mmol, 0.20 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 1-methylpiperizine | 1.5 mmol, 0.15 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 2.0 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
solvent | 1-butanol | 3.0 mL | C(CCC)O | C4H10O
product | 5-Bromo-2-(4-methylpiperazin-1-yl)benzonitrile | 0.26 g, 92% | BrC=1C=CC(=C(C#N)C1)N1CCN(CC1)C | C12H14BrN3
